US05135937
7 g of crude 4-[1-hydroxycyclohept-1-yl-1-(1,2,4-triazolyl)methyl]benzonitrile is dissolved in 50 ml of dichloromethane at 0° and stirred with 20 ml of thionyl chloride for 1 hour at 0°. Then the mixture is concentrated to dryness under an oil pump vacuum, dissolved in 50 ml of dichloromethane, stirred for 2 hours with 30 ml of triethylamine, diluted with water, extracted three times with ethyl acetate, washed with sodium chloride solution, dried over sodium sulfate, concentrated to dryness under vacuum, and chromatographed on silica gel with hexane/ethyl acetate, thus producing 1.9 g of 4-[1-cycloheptylidene-1-(1,2,4triazolyl)methyl]benzonitrile as the free base, mp 79-80°.

reactant | 4-[1-hydroxycyclohept-1-yl-1-(1,2,4-triazolyl)methyl]benzonitrile | 7 g | OC1(CCCCCC1)C(C1=NNC=N1)C1=CC=C(C#N)C=C1 | C17H20N4O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[1-cycloheptylidene-1-(1,2,4triazolyl)methyl]benzonitrile | 1.9 g | C1(CCCCCC1)=C(C1=NNC=N1)C1=CC=C(C#N)C=C1 | C17H18N4
